US05994378
A mixture of methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-3-cyanoindole-5-carboxylate (1.09 g) and sodium hydroxide (1.5 g) in a mixed solvent of water (15 ml) and methanol (30 ml) was stirred under reflux for 2 hours. After cooling, the mixture was made acidic with diluted hydrochloric acid, and the resulting precipitates were collected by filtration and washed with water to give 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-3-cyanoindole-5-carboxylic acid. Borane-methyl sulfide complex (2.0M) in tetrahydrofuran (1.4 ml) was added to a mixture of the acid obtained above in tetrahydrofuran (25 ml) and the mixture was stirred at room temperature for 1 day. After addition of methanol to mixture, the resulting mixture was evaporated under reduced pressure. The residue was partitioned between diluted hydrochloric acid and ethyl acetate. The ethyl acetate layer was washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a mixture of toluene and ethyl acetate. The fractions containing the objective compounds were combined and concentrated under reduced pressure to give 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(hydroxymethyl)indole-3-carbonitrile (0.87 g).

reactant | methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-3-cyanoindole-5-carboxylate | 1.09 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)C(=O)OC)C#N | C27H23N3O3S
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-3-cyanoindole-5-carboxylic acid | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)C(=O)O)C#N | C26H21N3O3S
